US09105852B2
Synthesis of 5,6-bis[4-(10-phenyl-9-anthryl)phenyl]-2,2′-bipyridine (abbreviation: PAP2BPy)
In a 100-mL three-neck flask were put 0.74 g (1.6 mmol) of 5,6-bis(4-bromophenyl)-2,2′-bipyridine, 1.1 g (3.7 mmol) of 10-phenylanthracene-9-boronic acid, 0.79 g (7.4 mmol) of sodium carbonate, 20 mL of toluene, 5 mL of ethanol, and 5 mL of water. The mixture was degassed by being stirred under reduced pressure, and the air in the flask was replaced with nitrogen. To this mixture was added 74 mg (0.14 mmol) of tetrakis(triphenylphosphine)palladium(0), and the mixture was refluxed at 120° C. under a nitrogen stream for ten hours. After a predetermined time, water was added to this mixture to separate an aqueous layer and an organic layer, and then an organic substance was extracted with toluene from the aqueous layer. The obtained extracted solution and the organic layer were combined and washed with saturated saline, the aqueous layer and the organic layer are separated, and the organic layer was dried with magnesium sulfate. The mixture was gravity filtered, and the obtained filtrate was concentrated to give an oily substance. The obtained oily substance was purified by silica gel column chromatography (toluene), so that a solid was obtained. A methanol suspension of the obtained solid was irradiated with ultrasonic waves, and a solid was collected by suction filtration. The obtained solid was recrystallized with toluene to give 0.56 g of light yellow powder, which was the objective substance, in a yield of 43%. The synthesis scheme of this reaction is shown below.

reactant | 5,6-bis(4-bromophenyl)-2,2′-bipyridine | 1.6 mmol, 0.74 g | BrC1=CC=C(C=C1)C=1C=CC(=NC1C1=CC=C(C=C1)Br)C1=NC=CC=C1 | C22H14Br2N2
reactant | 10-phenylanthracene-9-boronic acid | 3.7 mmol, 1.1 g | C1(=CC=CC=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)B(O)O | C20H15BO2
reactant | sodium carbonate | 7.4 mmol, 0.79 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 mmol, 74 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | water | 5 mL | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5,6-bis[4-(10-phenyl-9-anthryl)phenyl]-2,2′-bipyridine | 0.56 g, yield of 43% | C1(=CC=CC=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=C(C=C1)C=1C=CC(=NC1C1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1)C1=NC=CC=C1 | C62H40N2
